US08557805B2
1-({2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetyl)azetidin-3-ol
A mixture of {2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (190 mg), 1H-1,2,3-benzotriazol-1-ol (70 mg), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (100 mg), azetidin-3-ol hydrochloride (80 mg), triethylamine (80 mg) and N,N-dimethylformamide (3 mL) was stirred at room temperature for 15 hr. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and eluted with ethyl acetate-methanol (100/0 to 90/10, volume ratio) to give colorless crystals. The crystals were recrystallized from acetone-hexane to give the title compound (130 mg, yield 62%) as colorless prism crystals.

reactant | {2-[5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 190 mg | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C24H25N3O7S2
reactant | 1H-1,2,3-benzotriazol-1-ol | 70 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | azetidin-3-ol hydrochloride | 80 mg | Cl.N1CC(C1)O
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 80 mg | C(C)N(CC)CC | C6H15N
product | 1-({2-[5-{[5-(Methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetyl)azetidin-3-ol | 130 mg, yield 62% | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)N1CC(C1)O | C27H30N4O7S2
